US06790860B2
To a solution of (2RS,5RS)-1-methanesulfonyl-piperidine-2,5-dicarboxylic acid dimethyl ester (46.5 g) in methanol (850 ml) and water (85 ml) was added 1 molar sodium hydroxide (166 ml) within 20 minutes at reflux temperature. The reaction mixture was stirred for 45 minutes at reflux, cooled and concentrated. The residue was taken up in water (300 ml) and washed with Et2O. The aqueous phase was acidified with 1 molar HCl (166 ml) and extracted with EtOAc. The organic phase was washed with brine, dried over magnesium sulphate and concentrated. The residue was crystallized from acetone/Et2O to obtain (2RS,5RS)-1-methanesulfonyl-piperidine-2,5-dicarboxylic acid 2-methyl ester (16.8 g) as a colourless solid, mp 130-133° C., MS: 206 (M+-59).

reactant | (2RS,5RS)-1-methanesulfonyl-piperidine-2,5-dicarboxylic acid dimethyl ester | 46.5 g | COC(=O)C1N(CC(CC1)C(=O)OC)S(=O)(=O)C | C10H17NO6S
reactant | sodium hydroxide | 1 molar, 166 ml | [OH-].[Na+]
solvent | methanol | 850 ml | CO | CH4O
solvent | water | 85 ml | O | H2O
product | (2RS,5RS)-1-methanesulfonyl-piperidine-2,5-dicarboxylic acid 2-methyl ester | 16.8 g | COC(=O)C1N(CC(CC1)C(=O)O)S(=O)(=O)C | C9H15NO6S
